US06660746B1
2-(4-Chlorophenyl)-4-hydroxy-5,6,7,8-tetrahydroquinazoline
7.5 g of ethyl 2-oxocyclohexane-4-carboxylate and 9.6 g of 4-chlorobenzamidine hydrochloride were introduced into 50 ml of methanol. 5.6 g of potassium tert-butylate were added with stirring. The reaction mixture was stirred under reflux for 4 hours and then poured onto ice water. The crystalline product was filtered off with suction, washed with water and recrystallized from dimethylformamide. Yield: 8.8 g; m.p.: >300° C.

reactant | ethyl 2-oxocyclohexane-4-carboxylate | 7.5 g | O=C1CCCC(C1)C(=O)OCC | C9H14O3
reactant | 4-chlorobenzamidine hydrochloride | 9.6 g | Cl.ClC1=CC=C(C(=N)N)C=C1
reactant | potassium tert-butylate | 5.6 g | CC(C)(C)[O-].[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-Chlorophenyl)-4-hydroxy-5,6,7,8-tetrahydroquinazoline | ClC1=CC=C(C=C1)C1=NC=2CCCCC2C(=N1)O | C14H13ClN2O
